US07960419B2
Degas a solution of (R,R)—N-[3,4-dibromoisothiazol-5-yl]-2-methylcyclopropane-carboxamide (0.500 g, 1.471 mmol), (4-ethoxyphenyl)boronic acid (0.485 g, 2.941 mmol), DMF (3 mL) and toluene (29 mL) with nitrogen. Add sodium carbonate (2 M) (4.41 mmol) and Pd(PPh3)4 (0.255 g, 0.221 mmol); then seal under nitrogen. Heat at 60° C. overnight. Add 100 mg of Pd(PPh3)4 and heat for 1 more day. Dilute with EtOAc and wash with brine. Separate and evaporate. Chromatography on silica gel, eluting with 15-50% EtOAc in hexane, followed by crystallization from EtOAc and hexane affords (R,R)—N-[4-bromo-3-(4-ethoxyphenyl)isothiazol-5-yl]-2-methylcyclopropane-carboxamide. Yield: 53.5% ES-MS: 380.0 (m+1).

reactant | (R,R)—N-[3,4-dibromoisothiazol-5-yl]-2-methylcyclopropane-carboxamide | 1.471 mmol, 0.500 g | BrC1=NSC(=C1Br)NC(=O)[C@H]1[C@@H](C1)C | C8H8Br2N2OS
reactant | (4-ethoxyphenyl)boronic acid | 2.941 mmol, 0.485 g | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | sodium carbonate | 4.41 mmol, 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.221 mmol, 0.255 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 29 mL | C1(=CC=CC=C1)C | C7H8
product | (R,R)—N-[4-bromo-3-(4-ethoxyphenyl)isothiazol-5-yl]-2-methylcyclopropane-carboxamide | Yield: 53.5% | BrC=1C(=NSC1NC(=O)[C@H]1[C@@H](C1)C)C1=CC=C(C=C1)OCC | C16H17BrN2O2S
